US06897231B2
A. N-Amino-2-(2-oxopyrrolidinyl)acetamide
To a solution of methyl 2-(2-oxopyrrolidinyl)acetate (0.884 mL, 6.36 mmol) in 1 mL of anhydrous ethanol was added anhydrous hydrazine (0.308 mL, 6.36 mmol). The solution was heated to reflux temperature overnight. The solvent was then removed under reduced pressure and the product was isolated as a solid in a quantitative yield and was used without further purification: 1H NMR (CDCl3) δ 8.17 (br s, 1H), 3.94 (s, 2H), 3.55 (t, 2H), 2.43 (t, 2H), 2.10 (quintet, 2H); ES-MS (m/z) 158 [M+H]+.

reactant | methyl 2-(2-oxopyrrolidinyl)acetate | 6.36 mmol, 0.884 mL | O=C1N(CCC1)CC(=O)OC | C7H11NO3
reactant | hydrazine | 6.36 mmol, 0.308 mL | NN | H4N2
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | N-Amino-2-(2-oxopyrrolidinyl)acetamide | quantitative yield | NNC(CN1C(CCC1)=O)=O | C6H11N3O2
